US07576089B2
Benzyl 4-({(3S)-3-[(tert-Butoxycarbonyl)amino]pyrrolidin-1-yl}carbonyl)piperidine-1-carboxylate
A mixture of 1-[(benzyloxy)carbonyl]piperidine-4-carboxylic acid (5 g, 20 mmol), tert-butyl (3S)-pyrrolidin-3-ylcarbamate (3.9 g, 21 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (9.2 g, 21 mmol), and triethylamine (3.8 g, 38 mmol) in dichloromethane (100 mL) was stirred at room temperature overnight. The reaction solution was washed with water, dried over Na2SO4, and concentrated. The residue was chromatographed on silica gel to give 7.5 g of product. MS (M+H) 432.2.

reactant | 1-[(benzyloxy)carbonyl]piperidine-4-carboxylic acid | 20 mmol, 5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | tert-butyl (3S)-pyrrolidin-3-ylcarbamate | 21 mmol, 3.9 g | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 21 mmol, 9.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 38 mmol, 3.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Benzyl 4-({(3S)-3-[(tert-Butoxycarbonyl)amino]pyrrolidin-1-yl}carbonyl)piperidine-1-carboxylate | 7.5 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C23H33N3O5
